US04362728
Sodium hydride (50% w/w dispersion in oil; 0.114 g.) was added portionwise to ethanol (2 ml.). To the resulting solution was added 2-aminoethanethiol hydrochloride (0.134 g.) and the mixture stirred at room temperature. 2-[2-(2,2,2-Trifluoroethyl)guanidino]-6-chloropyrazine (0.1 g.) was added and the mixture heated under reflux on a steam bath for 22 hours. The mixture was cooled, evaporated, water added and extracted with ethyl acetate. The extracts were dried over magnesium sulphate, filtered and the filtrate evaporated to yield 2-[2-(2,2,2-trifluoroethyl)guanidino]-6-[(2-aminoethyl)-thio]pyrazine as a gum (0.16 g.) which was used without further purification.

reactant | Sodium hydride | 0.114 g | [H-].[Na+]
reactant | 2-aminoethanethiol hydrochloride | 0.134 g | Cl.NCCS
reactant | 2-[2-(2,2,2-Trifluoroethyl)guanidino]-6-chloropyrazine | 0.1 g | FC(CN=C(NC1=NC(=CN=C1)Cl)N)(F)F | C7H7ClF3N5
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-[2-(2,2,2-trifluoroethyl)guanidino]-6-[(2-aminoethyl)-thio]pyrazine | FC(CN=C(NC1=NC(=CN=C1)SCCN)N)(F)F | C9H13F3N6S
